US04324786
Preparation of 3-morpholino-1,2-dipropionyl-1,2-dihydro-pyrido[2,3-e]-as-triazine
A mixture of 3.0 g (0.01 moles) of 3-morpholino-1,2-dihydro-pyrido[2,3-e]-as-triazine-dihydrochloride and 40 ml of propionic anhydride is heated at 125° C. for 2 hours. The resulting deep yellow solution is cooled and admixed with ether. The separated precipitate is filtered off, stirred with saturated aqueous sodium carbonate solution and, if necessary, recrystallized from ethanol. 1.5 g (58%) of the title compound are obtained; m.p.: 173°-174° C.

reactant | 3-morpholino-1,2-dihydro-pyrido[2,3-e]-as-triazine-dihydrochloride | 0.01 moles, 3.0 g | Cl.Cl.O1CCN(CC1)C=1NNC2=C(N1)N=CC=C2
reactant | propionic anhydride | 40 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | ether | CCOCC | C4H10O
product | 3-morpholino-1,2-dipropionyl-1,2-dihydro-pyrido[2,3-e]-as-triazine | 1.5 g, 58% | O1CCN(CC1)C=1N(N(C2=C(N1)N=CC=C2)C(CC)=O)C(CC)=O | C16H21N5O3
